US09447090B2
To 223 mg of tert-butyl (2E)-3-(4-cyanophenyl)acrylate were added 12 mL of methanol, 5 ml of THF, 1 ml of an acetic acid solution, and 90 mg of 10% palladium-carbon in this order, followed by stirring for 3 hours under hydrogen at 3 atm. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. To the residue were added a saturated aqueous sodium hydrogen carbonate solution and ethyl acetate to carry out a layer separation operation. The organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure to obtain 177 mg of tert-butyl 3-[4-(aminomethyl)phenyl]propanoate.

reactant | tert-butyl (2E)-3-(4-cyanophenyl)acrylate | 223 mg | C(#N)C1=CC=C(C=C1)/C=C/C(=O)OC(C)(C)C | C14H15NO2
reactant | methanol | 12 mL | CO | CH4O
reactant | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | palladium-carbon | 90 mg | [C].[Pd]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | tert-butyl 3-[4-(aminomethyl)phenyl]propanoate | 177 mg | NCC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C14H21NO2
